US09447106B2
To a solution of 2-(4-(benzyloxy)phenyl)-7-(2-nitrophenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile (2 g, 4.47 mmol) in CH3OH (20 mL) and DCM (20 mL) was added 10% w/w Pd/C (300 mg). The mixture was stirred at RT under H2 for 16 hr. Filtered and purified by chromatography column on silica gel (elution with DCM/CH3OH) to afford 0.92 g (62%) of 7-(2-aminophenyl)-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile as a yellow solid. MS (ESI, m/e) [M+1]+ 331.9.

reactant | 2-(4-(benzyloxy)phenyl)-7-(2-nitrophenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 4.47 mmol, 2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NN2C(N=CC=C2C2=C(C=CC=C2)[N+](=O)[O-])=C1C#N | C26H17N5O3
solvent | CH3OH | 20 mL | CO | CH4O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 7-(2-aminophenyl)-2-(4-hydroxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.92 g, 62% | NC1=C(C=CC=C1)C1CCNC=2N1N=C(C2C#N)C2=CC=C(C=C2)O | C19H17N5O
